US06541505B1
N-[2-(3-cyano-1H-indol-5-yl)-ethyl]-4-[2-(2-hydroxy-ethylamino)-pyrimidin-4-y]-benzamide.
Using 2-hydroxy-ethylamine and N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide (reference example 1az) as substrates. 1H NMR (DMSO) δ 2.98 (t, 2H, J=7 Hz); 3.44 (bs, 2H); 3.55 (m, 4H); 4.70 (t, 1H, J=6 Hz); 7.17 (m, 3H); 7.48 (m, 2H); 7.92 (d, 2H, J=9 Hz); 8.18 (m, 3H); 8.38 (d, 1H, J=5 Hz); 8.68 (bt, 1H); 12.12 (bs, 1H). MS (ion spray) m/z 427 (M+H)+.

reactant | 2-hydroxy-ethylamine | OCCN | C2H7NO
reactant | N-[2-(3-Cyano-1H-indol-5-yl)-ethyl]-4-[2-chloro-pyrimidin-4-yl]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)Cl)=O | C22H16ClN5O
product | N-[2-(3-cyano-1H-indol-5-yl)-ethyl]-4-[2-(2-hydroxy-ethylamino)-pyrimidin-4-y]-benzamide | C(#N)C1=CNC2=CC=C(C=C12)CCNC(C1=CC=C(C=C1)C1=NC(=NC=C1)NCCO)=O | C24H22N6O2
